US06835732B2
3-Methyl-thiophene-2-carboxylic acid benzothiazol-2-ylamide
Using 2-amino-benzothiazole and 3-methyl-thiophene-2-carboxylic acid chloride in pyridine the title compound was obtained as a yellow solid (69% yield), MS: m/e=275.1 (M+H+).

reactant | 2-amino-benzothiazole | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 3-methyl-thiophene-2-carboxylic acid chloride | CC1=C(SC=C1)C(=O)Cl | C6H5ClOS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-thiophene-2-carboxylic acid benzothiazol-2-ylamide | S1C(=NC2=C1C=CC=C2)NC(=O)C=2SC=CC2C | C13H10N2OS2
